US06114391
c) Preparation of (R)-3-hydroxy-2-(4-phenylbutylamino)propanoic acid methyl ester hydrochloride
2% Sodium in methanol (0.052 moles, 59.8 ml) is added to D-Serine methyl ester hydrochloride (0.052 moles, 8.16 g), dissolved in methanol (81.6 ml), to release the base. The formed sodium chloride is precipitated with ethyl ether (163 ml) and filtered off. The filtrate is evaporated to dryness under vacuum. The resulting residue is dissolved in methanol (150 ml), added with 4-phenylbutanal (0.051 moles, 10.69 g) and adjusted to pH 6 with acetic acid, added with sodium cyanoborohydride (0.055 moles, 3.62 g) and reacted at r.t. for 24 hours. The mixture is acidified with methanol HCl, evaporated to dryness under vacuum, taken up in methylene chloride (600 ml) and in a 1M sodium bicarbonate solution. The phases are separated and the aqueous one is extracted again with methylene chloride (3×200 ml), then the combined organic phases are washed with water and evaporated to dryness under vacuum. The product is recovered as the hydrochloride, taking up with ethyl ether (180 ml) and acidifying with ether HCl. The precipitated white solid is dried under vacuum at 30° C. Yield: 5.83 g (40%)

reactant | Sodium | [Na] | Na
reactant | D-Serine methyl ester hydrochloride | 0.052 moles, 8.16 g | Cl.COC([C@H](N)CO)=O
reactant | 4-phenylbutanal | 0.051 moles, 10.69 g | C1(=CC=CC=C1)CCCC=O | C10H12O
reactant | sodium cyanoborohydride | 0.055 moles, 3.62 g | C(#N)[BH3-].[Na+]
reactant | methanol HCl | Cl.CO
solvent | methanol | 81.6 ml | CO | CH4O
solvent | methanol | 0.052 moles, 59.8 ml | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (R)-3-hydroxy-2-(4-phenylbutylamino)propanoic acid methyl ester hydrochloride | Cl.COC([C@@H](CO)NCCCCC1=CC=CC=C1)=O | InChI=1S/C14H21NO3.ClH/c1-18-14(17)13(11-16)15-10-6-5-9-12-7-3-2-4-8-12;/h2-4,7-8,13,15-16H,5-6,9-11H2,1H3;1H/t13-;/m1./s1
